US05708123
1.65 g (10 mmol) N-butyl-2-aminoaniline and 0.84 g (5 mmol) 2,5-dimethoxybenzoquinone i 50 ml glacial acetic acid are heated to boiling under reflux for three hours followed by evaporation to dryness. The darkblue powder is treated with 50 ml 10% ammonia solution and washed thoroughly with water, ethanol, and acetone (10 ml). After a thorough drying under vacuum, 1.95 g (95%) 5,12-dibutyl-5,12-dihydro-5,7,12,14-tetraazapentacene is obtained.

reactant | N-butyl-2-aminoaniline | 10 mmol, 1.65 g | C(CCC)NC1=C(C=CC=C1)N | C10H16N2
reactant | 2,5-dimethoxybenzoquinone | 5 mmol, 0.84 g | COC=1C(C=C(C(C1)=O)OC)=O | C8H8O4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5,12-dibutyl-5,12-dihydro-5,7,12,14-tetraazapentacene | 1.95 g, 95% | C(CCC)N1C=2C=CC=CC2N=C2C=C3N(C4=CC=CC=C4N=C3C=C12)CCCC | C26H28N4
